US09334290B2
A mixture of 3-bromo-2-methylaniline (482 mg, 2.59 mmol) and 8-methoxy-1H-benzo[d][1,3]oxazine-2,4-dione (500 mg, 2.59 mmol) in toluene (20 mL) was treated with 2 M trimethylaluminum in toluene (3.24 mL, 6.47 mmol) at 0° C. The mixture was stirred at room temperature for 10 minutes, then was heated at 70° C. overnight. The mixture was cooled to room temperature, treated with 1N aqueous HCl and extracted 3 times with EtOAc. The combined organic phases were washed sequentially with saturated aqueous NaHCO3 and water, dried and concentrated. The residue was subjected to column chromatography on silica gel (40 g), eluting with EtOAc-hexanes (gradient from 0-100%), to provide 2-amino-N-(3-bromo-2-methylphenyl)-3-methoxybenzamide as a white solid (302 mg, 35% yield). Mass spectrum m/z 335, 337 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 7.72 (d, J=7.3 Hz, 2H), 7.46 (dd, J=8.0, 0.8 Hz, 1H), 7.17-7.10 (m, 2H), 6.90 (dd, J=7.9, 0.9 Hz, 1H), 6.72-6.66 (m, 1H), 5.88 (br. s., 2H), 3.92 (s, 3H), 2.43 (s, 3H).

reactant | 3-bromo-2-methylaniline | 2.59 mmol, 482 mg | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | 8-methoxy-1H-benzo[d][1,3]oxazine-2,4-dione | 2.59 mmol, 500 mg | COC1=CC=CC2=C1NC(OC2=O)=O | C9H7NO4
reactant | trimethylaluminum | 2 M | C[Al](C)C
reactant | HCl | 1N | Cl | ClH
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6.47 mmol, 3.24 mL | C1(=CC=CC=C1)C | C7H8
product | 2-amino-N-(3-bromo-2-methylphenyl)-3-methoxybenzamide | 302 mg, 35% yield | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)C)C=CC=C1OC | C15H15BrN2O2
